US08420655B2
To a high pressure vessel are added 5-bromo-1-tert-butyl-2-(2-[1,2,4]triazol-1-yl-phenyl)-1H-benzimidazole (718 mg, 1.812 mmol), bis(pinacolato)diboron (552 mg, 2.174 mmol) and KOAc (712 mg, 7.254 mmol) in 1,4-dioxane (10 mL). The solution is bubbled with Argon gas for 10 minutes, followed by the addition of 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) CH2Cl2 (148 mg, 0.181 mmol). The reaction mixture is stirred at 110° C. for 4 hours. The reaction mixture is diluted with EtOAc and washed with water. The organic layer is separated, washed with brine, dried under anhydrous Na2SO4, filtered and concentrated. The residue is purified by silica gel flash chromatography with 0-4% MeOH/CH2Cl2 as the eluent. The product fractions are collected and concentrated to afford 1-tert-butyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-(2-[1,2,4]triazol-1-yl-phenyl)-1H-benzimidazole (740 mg, 92%) as a light brown solid. LCMS (ESMS): m/z 444.57 (M++1)

reactant | 5-bromo-1-tert-butyl-2-(2-[1,2,4]triazol-1-yl-phenyl)-1H-benzimidazole | 1.812 mmol, 718 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)N2N=CN=C2)C(C)(C)C)C=C1 | C19H18BrN5
reactant | bis(pinacolato)diboron | 2.174 mmol, 552 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.254 mmol, 712 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) CH2Cl2 | 0.181 mmol, 148 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-tert-butyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-(2-[1,2,4]triazol-1-yl-phenyl)-1H-benzimidazole | 740 mg, 92% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)C2=C(C=CC=C2)N2N=CN=C2 | C25H30BN5O2
